US03969357
To a solution of 1-(3-pyridylmethyl)-3-(4 -cyanophenyl)urea (2.52 g., 0.01 mole) in 100 ml. of methanol was added anhydrous zinc chloride (0.68 g., 0.005 mole) dissolved in 50 ml. of methanol. A solid suspension formed and after stirring 1 hr. the solid was filtered off and air dried. The product was 2.33 g. which was a 72% yield of 1-(3-pyridylmethyl)-3-(4-cyanophenyl)urea zinc chloride complex.

reactant | 1-(3-pyridylmethyl)-3-(4 -cyanophenyl)urea | 0.01 mole, 2.52 g | N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)C#N | C14H12N4O
reactant | zinc chloride | 0.005 mole, 0.68 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | CO | CH4O
product | 1-(3-pyridylmethyl)-3-(4-cyanophenyl)urea zinc chloride | 72% yield | [Cl-].[Zn+2].N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)C#N.[Cl-] | InChI=1S/C14H12N4O.2ClH.Zn/c15-8-11-3-5-13(6-4-11)18-14(19)17-10-12-2-1-7-16-9-12;;;/h1-7,9H,10H2,(H2,17,18,19);2*1H;/q;;;+2/p-2
